US09085570B2
A solution of methyl 4-(5-methyl-4-((4-(piperidin-1-ylmethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate (2 g, 2.65 mmol, 1.00 equiv, 62%) in 6N hydrochloric acid (50 mL) was refluxed overnight. The resulting mixture was concentrated under vacuum and the residue was washed with 20 mL of ethyl acetate and 20 mL of ether. The solid was dried in a vacuum oven to give 1.2 g (68%) of 4-(5-methyl-4-((4-(piperidin-1-ylmethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride as an off-white solid. LC-MS: (ES, m/z): 496 [M+CH3CN+H]+, 455 [M+H]+

reactant | methyl 4-(5-methyl-4-((4-(piperidin-1-ylmethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 2.65 mmol, 2 g, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCCCC1 | C25H28N2O5S
reactant | hydrochloric acid | 6N, 50 mL | Cl | ClH
product | 4-(5-methyl-4-((4-(piperidin-1-ylmethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid hydrochloride | 1.2 g, 68% | Cl.CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCCCC1 | InChI=1S/C24H26N2O5S.ClH/c1-17-22(25-23(31-17)19-7-9-20(10-8-19)24(27)28)16-32(29,30)21-11-5-18(6-12-21)15-26-13-3-2-4-14-26;/h5-12H,2-4,13-16H2,1H3,(H,27,28);1H
